US04904669
A mixture of 20.52 g (0.1 mole) of 3-amino-4-mercapto-quinoline-hydrochloride, 10.61 g (0.1 mole) of freshly distilled benzaldehyde and 200 ml of ethanol is refluxed for 2 hours, whereupon air is bubbled through the reaction mixture for several days. The precipitated crystals are filtered and recrystallized from ethanol. Thus 13.5 g of 2-phenyl-thiazolo[4,5-c]quinoline are obtained. The melting point of this product is identical with that of the compound prepared according to Example 5.

reactant | 3-amino-4-mercapto-quinoline-hydrochloride | 0.1 mole, 20.52 g | Cl.NC=1C=NC2=CC=CC=C2C1S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-phenyl-thiazolo[4,5-c]quinoline | 13.5 g | C1(=CC=CC=C1)C=1SC2=C(C=NC=3C=CC=CC23)N1 | C16H10N2S
